US07163937B2
Benzyl (S)-1-((1S,2S,4R/S)-2-isopropyl-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (160 mg) was dissolved in MeOH (6 mL) prior to the addition of 20% Pd(OH)2 (50 mg) in a Parr bottle. The bottle was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 60 psi of H2 for 5 h and then filtered and concentrated. The resulting residue was dissolved in MeOH (6 mL) prior to the addition of 20% Pd(OH)2 (75 mg) in a Parr bottle. The bottle was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 50 psi of H2 for 24 h and then filtered and concentrated to provide (S)-3-amino-1-((1S,2S,4R/S)-2-isopropyl-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one (101 mg). MS (ES+)=296.3 (M+H)+.

reactant | Benzyl (S)-1-((1S,2S,4R/S)-2-isopropyl-4-(isopropyl(methyl)amino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 160 mg | C(C)(C)[C@H]1[C@H](CCC(C1)N(C)C(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C25H39N3O3
solvent | MeOH | 6 mL | CO | CH4O
catalyst | Pd(OH)2 | 50 mg | [OH-].[OH-].[Pd+2]
product | (S)-3-amino-1-((1S,2S,4R/S)-2-isopropyl-4-(isopropyl(methyl)amino)cyclohexyl)pyrrolidin-2-one | 101 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](CC(CC1)N(C)C(C)C)C(C)C)=O | C17H33N3O
